US06759429B2
A 2.0N solution of ethylmagnesium chloride in THF (100 ml) was cooled to 0° C. under nitrogen atmosphere, and thereto was added dropwise a solution of 2-cyanoaniline (7.90 g) in THF (65 ml) over a period of 50 minutes. The mixture was stirred at room temperature for 20 minutes, and refluxed for 3 hours. The reaction solution was cooled to 0° C., and thereto was added a 4N aqueous hydrochloric acid solution (80 ml) over a period of 40 minutes, and the mixture was further refluxed for 3 hours. The solvent in the reaction solution was evaporated under reduced pressure, and the resultant was added to a saturated aqueous sodium hydrogen carbonate solution for neutralization. The mixture was extracted three times with ethyl acetate, and the extract was washed with a saturated brine, dried over magnesium sulfate, and filtered. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column (hexane/ethyl acetate=8/1) to give 1-(2-aminophenyl)-1-propanone (6.78 g, 68%).

reactant | ethylmagnesium chloride | C(C)[Mg]Cl
reactant | 2-cyanoaniline | 7.90 g | C(#N)C1=C(N)C=CC=C1 | C7H6N2
reactant | hydrochloric acid | 4N, 80 ml | Cl | ClH
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 65 ml | C1CCOC1 | C4H8O
product | 1-(2-aminophenyl)-1-propanone | 6.78 g, 68% | NC1=C(C=CC=C1)C(CC)=O | C9H11NO
